US08426449B2
Step 1: {3-[2-(Benzylamino-methyl)-4-bromo-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 3, Step 2, using the following starting materials: [3-(4-bromo-2-formyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester and benzylamine.

reactant | [3-(4-bromo-2-formyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Br)C=O)=O | C18H17BrO5
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | {3-[2-(Benzylamino-methyl)-4-bromo-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Br)CNCC1=CC=CC=C1)=O | C25H26BrNO4
